US08003800B2
4-[5-(4-Isobutyl-3,5-dimethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenol is prepared from 4-isobutyl-3,5-dimethyl-thiophene-2-carboxylic acid and 4,N-dihydroxy-3,5-dimethyl-benzamidine in analogy to Example 21; LC-MS: tR=1.20 min, [M+1]=357.35; 1H NMR (D6-DMSO): δ 8.91 (s, 1H), 7.60 (s, 2H), 2.53 (s, 3H), 2.44-2.40 (m, 5H), 2.23 (s, 6H), 1.81-1.72 (m, 1H), 0.89 (d, J=6.4 Hz, 6H).

reactant | 4-isobutyl-3,5-dimethyl-thiophene-2-carboxylic acid | C(C(C)C)C=1C(=C(SC1C)C(=O)O)C | C11H16O2S
reactant | 4,N-dihydroxy-3,5-dimethyl-benzamidine | OC1=C(C=C(C(=N)NO)C=C1C)C | C9H12N2O2
product | 4-[5-(4-Isobutyl-3,5-dimethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenol | C(C(C)C)C=1C(=C(SC1C)C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)C | C20H24N2O2S
